US03991109
Preparation of t-butyl o-(chloroformyl)peroxybenzoate ##SPC1##
To a suspension of t-butyl o-(carboxy)peroxybenzoate (16.2g. 0.06 moles) in 100 ml. of benzene at +6° to +24° C but preferably at +6° to +10° C was added in a single portion phosphorous pentachloride (12.6g. 0.06 moles).

reactant | t-butyl o-(carboxy)peroxybenzoate | 0.06 moles, 16.2g | C(=O)(O)C1=C(C(=O)OOC(C)(C)C)C=CC=C1 | C12H14O5
reactant | phosphorous pentachloride | 0.06 moles, 12.6g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | t-butyl o-(chloroformyl)peroxybenzoate | ClC(=O)C1=C(C(=O)OOC(C)(C)C)C=CC=C1 | C12H13ClO4
